US04006145
6 g of 2-(phenylthio)-5-trifluoromethyl-benzonitrile, 40 ml of 15% aqueous sodium hydroxide solution and 12 ml of ethanol are heated under reflux for 12 hours and then cooled. After the addition of 100 ml of water, the mixture is extracted with 80 ml of benzene. The aqueous phase is cooled to 0° C and acidified with concentrated hydrochloric acid. The precipitate which separates out is extracted with methylene chloride. The organic phase is washed with water until neutral, dried over sodium sulphate, filtered and evaporated. There is obtained 2-(phenylthio)-5-trifluoromethyl-benzoic acid which melts at 140°-145° C.

reactant | 2-(phenylthio)-5-trifluoromethyl-benzonitrile | 6 g | C1(=CC=CC=C1)SC1=C(C#N)C=C(C=C1)C(F)(F)F | C14H8F3NS
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-(phenylthio)-5-trifluoromethyl-benzoic acid | C1(=CC=CC=C1)SC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C14H9F3O2S
